US07456164B2
(4-{4-[3-(2,5-Dimethylpyrrolidin-1-yl)propoxy]phenyl}tetra-hydro-pyran-4-ylmethyl)dimethylamine
4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol (330 mg, 1.43 mmol), 1-(3-chloro-propyl)-2,5-trans-dimethyl-pyrrolidine (221 mg, 1.26 mmol), DMF (7.6 ml) and K2CO3 (790 mg, 5.72 mmol) were reacted together according to general procedure B. The isolated material was subjected to chromatography on silica, eluant 95:4:1 (DCM, MeOH, NH3) to give the title compound as a yellow oil (180 mg, 34%). 1H NMR (400 MHz, CDCl3) δ7.20 (d, 2H), 6.87 (d, 2H), 4.08-3.95 (m, 2H), 3.79-3.70 (m, 2H), 3.59-3.49 (m, 2H), 3.11-3.00 (m, 2H), 2.77 (m, 1H), 2.54 (m, 1H), 2.40 (s, 2H), 2.14-1.81 (m, 8H), 1.96 (s, 6H), 1.44-1.31 (m, 2H), 0.97 (d, 6H).

reactant | 4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol | 1.43 mmol, 330 mg | CN(C)CC1(CCOCC1)C1=CC=C(C=C1)O | C14H21NO2
reactant | 1-(3-chloro-propyl)-2,5-trans-dimethyl-pyrrolidine | 1.26 mmol, 221 mg | ClCCCN1[C@H](CC[C@@H]1C)C | C9H18ClN
reactant | K2CO3 | 5.72 mmol, 790 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NH3 | N | H3N
solvent | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 7.6 ml | CN(C)C=O | C3H7NO
product | (4-{4-[3-(2,5-Dimethylpyrrolidin-1-yl)propoxy]phenyl}tetra-hydro-pyran-4-ylmethyl)dimethylamine | 180 mg, 34% | CC1N(C(CC1)C)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN(C)C | C23H38N2O2
